US04425154
(b) 2-(1,2-Dichlorovinyloxy)-phenylsulfonamide
A solution of 17.5 g of 2-(1,2-dichlorovinyloxy)phenylsulfonyl-chloride in 150 ml of methylene chloride is added slowly to a mixture of 30 ml of methylene chloride, 50 ml of water and 50 ml of 30% aqueous ammonia. The reaction mixture is stirred for 6 hours at a temperature of 20°-25° C. The organic phase is washed with water, dried over sodium sulfate and evaporated to a volume of 40 ml. The crystallised 2-(1,2-dichlorovinyloxy)phenylsulfonamide is separated and dried. Yield: 12.5 g, m.p. 147°-149° C.

reactant | 2-(1,2-dichlorovinyloxy)phenylsulfonyl-chloride | 17.5 g | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)Cl | C8H5Cl3O3S
reactant | water | 50 ml | O | H2O
reactant | ammonia | 50 ml | N | H3N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-(1,2-Dichlorovinyloxy)-phenylsulfonamide | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)N | C8H7Cl2NO3S
